US05773530
To a solution of 3-(tert-butyldimethylsilyl)oxy-1-cyclohexanol (12.5 g) and triethylamine (9.8 ml) in dichloromethane (200 ml) was added dropwise methylsulfonyl chloride (4.6 ml) at 5° C. under nitrogen atmosphere. A reaction mixture was allowed to warm to ambient temperature and stirred for 2 hours. Insoluble material was removed by filtration and mother liquor was concentrated under reduced pressure to give residue, which was dissolved in ethyl acetate (200 ml) and washed in turn with 1N-aqueous hydrochloric acid (50 ml×2), saturated sodium hydrogen carbonate in water (50 ml×2) and saturated sodium chloride in water (50 ml×2), and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (300 ml) eluting with 10% ethyl acetate in n-hexane to give 3-(tert-butyldimethylsilyl)oxy-1-(methylsulfonyloxy)-cyclohexane(cis and trans mixture, 16.0 g).

reactant | 3-(tert-butyldimethylsilyl)oxy-1-cyclohexanol | 12.5 g | [Si](C)(C)(C(C)(C)C)OC1CC(CCC1)O | C12H26O2Si
reactant | triethylamine | 9.8 ml | C(C)N(CC)CC | C6H15N
reactant | methylsulfonyl chloride | 4.6 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 3-(tert-butyldimethylsilyl)oxy-1-(methylsulfonyloxy)-cyclohexane | 16.0 g | [Si](C)(C)(C(C)(C)C)OC1CC(CCC1)OS(=O)(=O)C | C13H28O4SSi
